US04652651
A solution of 35.2 g of allyl 4-chloro-acetoacetate in 34 ml of acetic acid is treated dropwise within 45 minutes while stirring and cooling with a solution of 14.6 g of sodium nitrite in 21 ml of water. During the addition the temperature falls gradually from 0° C. to -15° C. The mixture is subsequently stirred at -15° C. for 2 hours. A solution of 15.2 g of thiourea in 120 ml of water, pre-warmed to 30° C., is treated with the resulting solution at such a rate that the temperature remains at about 30°-35° C. After stirring for an additional 7 hours, the crystalline precipitate obtained is filtered off, washed successively with water, acetonitrile and ether and crystallized from acetonitrile. There are obtained 21.8 g (48%) of allyl 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetate of melting point 184°-185° C.

reactant | allyl 4-chloro-acetoacetate | 35.2 g | ClCC(CC(=O)OCC=C)=O | C7H9ClO3
reactant | sodium nitrite | 14.6 g | N(=O)[O-].[Na+]
reactant | thiourea | 15.2 g | NC(=S)N | CH4N2S
solvent | acetic acid | 34 ml | C(C)(=O)O | C2H4O2
solvent | water | 21 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | allyl 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetate | 21.8 g, 48% | NC=1SC=C(N1)/C(/C(=O)OCC=C)=N/O | C8H9N3O3S
